US05348964
Dissolve 3-chloropropyl isopentyl sulfide (800 mg, 4.43 mmol) in methylene chloride (25 mL) and place under nitrogen atmosphere. Add a solution of metachloroperbenzoic acid (1.53 g, 8.85 mmol) in methylene chloride (25 mL). Stir at room temperature overnight. Add additional meta-chloroperbenzoic acid (1.0 g) in methylene chloride (25 mL). Stir at room temperature overnight. Treat with aqueous sodium metabisulfite (until negative starch-iodide test) and separate the layers. Wash the organic phase with saturated sodium hydrogen carbonate until basic and dry (MgSO4). Evaporate the solvent in vacuo to yield 710 mg (75.4%) of 3-chloropropyl isopentyl sulfone as a yellow oil which crystallizes; MS (CI/CH4) m/z 213(M+1), 177(M+1-HCl).

reactant | 3-chloropropyl isopentyl sulfide | 4.43 mmol, 800 mg | C(CC(C)C)SCCCCl | C8H17ClS
reactant | metachloroperbenzoic acid | 8.85 mmol, 1.53 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | meta-chloroperbenzoic acid | 1.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium metabisulfite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 3-chloropropyl isopentyl sulfone | 710 mg, 75.4% | C(CC(C)C)S(=O)(=O)CCCCl | C8H17ClO2S
